US04267176
A mixture of 2-(6-formamidopyridin-2-yl)-2-hydroxyiminoacetic acid (3.6 g.), dichloroacetyl chloride (7.6 g.) and methylene chloride (100 ml.) was stirred at room temperature for 5 hours. The precipitates were collected by filtration, washed with diethyl ether and dried to give 2-(6-formamidopyridin-2-yl)-2-dichloroacetoxyiminoacetic acid (4.6 g.), mp 88° to 90° C.

reactant | 2-(6-formamidopyridin-2-yl)-2-hydroxyiminoacetic acid | 3.6 g | C(=O)NC1=CC=CC(=N1)C(C(=O)O)=NO | C8H7N3O4
reactant | dichloroacetyl chloride | 7.6 g | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-(6-formamidopyridin-2-yl)-2-dichloroacetoxyiminoacetic acid | 4.6 g | C(=O)NC1=CC=CC(=N1)C(C(=O)O)=NOC(C(Cl)Cl)=O | C10H7Cl2N3O5
